US05405848
The following general procedure was used to synthesize compound IV (R2 ≠H): Into a dried, 3-neck flask fitted with a mechanical stirring device, an addition funnel and a low temperature thermometer was cannulated lithium hexamethyldisilazane (1.0 M in THF, 1.1 molar equiv). The solution was cooled via a dry ice/acetone bath. A solution of N-benzoyl-4piperidone (1.0 equiv) in THF (50 mL) was added dropwise, with stirring, over thirty minutes. The solution was stirred at -72° to -68° C. for thirty minutes. Ethyl formate (2 equiv) was added all at once and the solution stirred at -70° C. for ten minutes, then at room temperature for twenty eight hours. The solution was treated with 1N HCl (200 mL) and extracted (methylene chloride and brine). The extracts were dried (MgSO4) and concentrated to yield 3-formyl-4-piperidone as an orange oil (73%).

reactant | lithium hexamethyldisilazane | 1.0 M | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | N-benzoyl-4piperidone | 1.0 equiv | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
reactant | Ethyl formate | 2 equiv | C(=O)OCC | C3H6O2
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-formyl-4-piperidone | 73% | C(=O)C1CNCCC1=O | C6H9NO2
